US07943619B2
4-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for example 11b, 4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (200 mg, 0.61 mmol), instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid, was converted, using 4-amino-tetrahydropyran instead of thiomorpholine 1,1-dioxide, to the title compound (SiO2, heptane:ethyl acetate=100:0 to 60:40, 156 mg, 62%) which was obtained as a white solid. MS: m/e=409.3 [M+H]−.

reactant | 4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.61 mmol, 200 mg | CC1=C(N=NC(=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)C(=O)O | C17H15N3O4
reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)C(=O)O | C16H13N3O4
reactant | 4-amino-tetrahydropyran | NC1CCOCC1 | C5H11NO
product | 4-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 156 mg, 62% | O1CCC(CC1)NC(=O)C=1N=NC(=CC1C)OCC=1C(=NOC1C)C1=CC=CC=C1 | C22H24N4O4
